Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Clozaril / Tegretol / Benadryl
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Right heart catheterization ___
Left thoracotomy with left ventricular pacing wire placement 
___
 
History of Present Illness:
Pt ___ w h/o non-ischemic cardiomyopathy (EF ___ ___ ___ 
attributed to  an anti-psychotic medication. He had marked left 
ventricular  mechanical dyssynchrony due to wide left 
bundle-branch block. He has a biventricular pacer ___ place, but 
the left ventricular lead  was causing significant chest wall 
stimulation. Percutaneous  attempt was made at re-positioning 
the lead, however  
unsuccessful so is ___ the process of being evaluated for pacer 
revision by CT surg.  
.  
Presented to ___ with a chief complaint of SOB, 
where he was initially hypotensive to the ___ by EMS, was given 
1 L IVF with miprovement of blood pressures. Labs with Cr 2.01, 
BNP 12,715 and negative troponin. Transferred here given he is 
planned to have his pacer wire replaced. Admitted to cardiology 
for monitoring and likley pacer revision while ___ house.  
.  
Patient reports his SOB occurs intermittently and describes it 
as "hyperventilation." He reports the episodes come on randomly. 
He endorses PND worsenign over the last week or so. Reports no 
changes to his medications and adhereing to a low salt diet. Of 
note he did call ___ today who reccomended he double his 
lasix but he has not done so yet.  
.  
Was seen ___ the ED for similar episode ___ ___ and told this was 
anxiety and to talk to his therapist about increasing his 
anti-anxiety medications.  
 
Past Medical History:
1. Chronic systolic heart failure and cardiomyopathy dating back 
 
to ___ with LVEF as low as ___, currently 35-40%.  
2. Pacemaker with ICD, no longer BiV pacing due to chest wall  
stimulation.  
3. Paranoid schizophrenia.  
4. Depression.  
5. Hypertension.  
6. Hyperlipidemia.  
7. Renal cancer with tumor extraction ___ ___.  
8. GERD/ Barretts esophagus.  
9. Complete teeth extraction.  
10. Mild anemia.  
 
Social History:
___
Family History:
Premature coronary artery disease  
Paternal & Maternal grandfathers had heart dz
 
Physical Exam:
Admission:
VS- 98.3 118/81 100 24 98RA  
Pulsus 8mmHg  
GENERAL- WDWN gentleman ___ NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple with no appreciable JVD however exam complicated by 
body hapitub.  
CARDIAC- distant HS. RRR. No MRG.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES- No c/c/e. No femoral bruits. no edema  

Discharge:
97.8 128/72 87 99 RA 81.4kg 149___
GENERAL- NAD. Oriented x3. Mood, affect appropriate.  
HEENT- NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK- No JVD
CARDIAC- distant HS. RRR. No MRG.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES- No c/c/e. No femoral bruits. no edema  
 
Pertinent Results:
Admission:
___ 09:00PM BLOOD WBC-10.4 RBC-4.44* Hgb-13.6* Hct-39.9* 
MCV-90 MCH-30.7 MCHC-34.2 RDW-15.3 Plt ___
___ 09:00PM BLOOD Neuts-61.1 ___ Monos-6.1 Eos-1.1 
Baso-0.6
___ 09:00PM BLOOD ___ PTT-32.1 ___
___ 09:00PM BLOOD Glucose-77 UreaN-40* Creat-2.0* Na-143 
K-4.1 Cl-107 HCO3-20* AnGap-20
___ 09:00PM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD CK-MB-3 ___
___ 03:40PM BLOOD Calcium-9.3 Phos-5.3* Mg-2.3

Microbiology:
URINE CULTURE (Final ___:    NO GROWTH. 

___ 7:00 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS  SINGLY. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

Imaging:
___ CXR:
FINDINGS: The lungs are somewhat low ___ volume without focal 
consolidation,
pleural effusion or pneumothorax.  The heart is stably enlarged 
with 3 lead
pacemaker/defibrillator noted.  No pleural effusion or 
pneumothorax is seen. 
Bilateral lateral pleural thickening is noted, unchanged since 
___.
 
IMPRESSION: Unchanged examination without acute intrathoracic 
process.

___ Echo:
The left atrium is moderately dilated. The estimated right 
atrial pressure is at least 15 mmHg. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is severely 
dilated. There is severe global left ventricular hypokinesis 
(LVEF = 10 %). The right ventricular free wall thickness is 
normal. The right ventricular cavity is dilated with depressed 
free wall contractility. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Severe (4+) 
mitral regurgitation is seen. Severe [4+] tricuspid 
regurgitation is seen. There is at least moderate pulmonary 
artery systolic hypertension. ___ the setting of at least 
moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] The end-diastolic pulmonic 
regurgitation velocity is increased suggesting pulmonary artery 
diastolic hypertension. There is no pericardial effusion. There 
is an anterior space which most likely represents a prominent 
fat pad.

Marked left ventricular mechanical dyssynchrony is present. 
However, marked ventricular interaction with reverse Bernheim 
phenomenon is also seen, due to marked right ventricular 
pressure and volume overload.

Compared with the prior study (images reviewed) of ___, 
both ventricles are even more dilated, and severe mitral and 
tricuspid regurgitation are now present. Mechanical left 
ventricular dyssynchrony remains evident.

___ Right Heart Cath:
COMMENTS:     
1. Resting hemodynamics revealed elevated right and left heart 
filling
pressures.  The RA mean pressure was 22 mmHg, mean PCW 31 mmHg.  
The
cardiac index calculated using the Fick equation was 1.57 
l/min/m2.
 
FINAL DIAGNOSIS:    
1. Elevated right and left heart filling pressures.
2. Low cardiac index.

___ 10:17AM Echo:
The estimated right atrial pressure is at least 15 mmHg. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is severely dilated. Overall left ventricular systolic 
function is profoundly depressed (LVEF = 10%). Significant left 
ventricular mechanical dyssynchrony is present (posterior wall 
remains the site of latest activation). The right ventricular 
free wall thickness is normal. The right ventricular cavity is 
dilated with depressed free wall contractility. Moderate (2+) 
mitral regurgitation is seen. Moderate [2+] tricuspid 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion.

Compared with the findings of the prior study (images reviewed) 
of ___, the appearance of mitral and tricuspid 
regurgitation is reduced. Marked left ventricular dyssynchrony 
persists. Right ventricular function appears similar.  

___ 3:34PM Echo:
The left ventricular cavity is severely dilated. Overall left 
ventricular systolic function is severely depressed (LVEF = 15 
%). [Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be significantly UNDERestimated.]

Compared with the findings of the prior study (images reviewed) 
of ___, the overall left ventricular ejection 
fraction is increased as a result of reduced mechanical 
dyssynchrony  

___ CXR:
CONCLUSION:
1.  There is no pneumothorax.
2.  Right-sided PICC line is still looped inside the subclavian 
vein.
3.  Unchanged bibasilar consolidation.

___ CXR:
FINDINGS:  As compared to the previous radiograph, the gastric 
distention has decreased.  There is unchanged evidence of low 
lung volumes with areas of atelectasis at the lung bases.  The 
ECG cables, pacemaker wires and right PICC line are constant.  
Unchanged moderate cardiomegaly.  No new parenchymal opacities 
___ the ventilated lung zones.  No pneumothorax.

___ 7:44AM CXR:
FINDINGS:  As compared to the previous radiograph, there is no 
relevant
change.  Moderate cardiomegaly with moderate pulmonary edema.  
The areas of
increased density at the right lung base are minimally 
progressive.  No new
parenchymal opacities.  No pneumothorax.

___ 12:59PM CXR:
FINDINGS:  As compared to the previous image, there is minimally 
improved
ventilation at both the left and right lung base.  Plate-like 
atelectasis at the level of the left hilus.  Normal size of the 
cardiac silhouette.  No
evidence of pneumothorax.

Discharge:
___ 06:40AM BLOOD WBC-12.6* RBC-4.89 Hgb-14.3 Hct-43.7 
MCV-89 MCH-29.3 MCHC-32.8 RDW-15.4 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-99 UreaN-78* Creat-1.8* Na-130* 
K-3.7 Cl-84* HCO3-32 AnGap-18
___ 06:40AM BLOOD Calcium-9.6 Phos-4.4 Mg-2.7*
 
Brief Hospital Course:
Brief Course:
___ YOM with history of non-ischemic cardiomyopathy s/p Dual 
Chamber ICD presenting with CC of intermittent SOB and 
transferred from OSH out of concern for decompensated CHF.  

Active Issues:
# Acute on chronic systolic CHF: EF 10% on echo ___. RHC 
showing RA mean 22, PA mean 39, PCW mean 39, CO 3.16, CI 1.57, 
suggesting elevated filling pressures and low cardiac output. 
BNP is elevated to ___, no baseline. Exacerbation may be 
secondary to ventricular dyssynchrony since the left ventricular 
lead was shut off after it was noted to cause significant chest 
wall stimulation. Patient was started on a milrinone drip ___ 
conjunction with lasix drip for optimization prior to BiV lead 
manipulation. The patient underwent left thoracotomy with left 
ventricular pacing wire placement on ___. He was 
successfully extubated ___ the OR and transferred to the CVICU 
with a left chest tube ___ place set to suction. Post-op CXR was 
notable for no pneumothorax and a new LV lead. Post-op echo 
notable for no pericardial effusion, improved dyssynchrony, EF 
___ and no intracardiac thrombi. Milrinone and furosemide 
drips were continued post procedure. On the morning for ___ 
the patient became hypotensive with SBPs ___ ___. He was 
administered albumin with a transient increase ___ pressure to 
SBP ___.  Milrinone and furosemide were stopped and 
norepinephrine was started. A stat echocardiogram showed 
significant left ventricular mechanical dyssynchrony and dilated 
right ventricular cavity with depressed free wall contractility. 
It was thought that the LV lead was not capturing. 
Norepinephrine was stopped and dopamine started, with an 
increase ___ UOP and improvement ___ blood pressure. The CCU was 
consulted and the patient transferred. CVP prior to transfer was 
12, and SvO2 61%. The patient denied any CP or dyspnea at the 
time of transfer. Repeat CXR showed fluid ___ the right fissure 
but improving atelectasis. Dopamine was discontinued on arrival 
to the CCU per the heart failure team. The patient was 
transiently placed back on milrinone and furosemide drips which 
were discontinued and replaced by dobutamine and norepinephrine. 
He was diuresed with intermittent boluses of furosemide, 
furosemide drip and metolazone for a goal CVP ___. SBPs of 
80-90s were tolerated. The patient required low dose 
norepinephrine for pressure support during diuresis. The chest 
tube was pulled by cardiac surgery on ___. Pt was started 
on torsemide 60mg BID on ___ which was decreased to 
torsemide 40mg daily on ___ when the patient was clinically 
euvolemic. He was also started on isosorbide dinitrate and low 
dose metoprolol. His isosorbide dinitrate was converted to 
mononitrate prior to discharge.

# Acute on CKD: Baseline creatinine 1.5-2. Creatinine trended up 
and peaked at 2.9, likely from cardio-renal syndrome. Creatinine 
improved with milrinone and diuresis.

# Hyponatremia: Likely due to appropriate ADH secretion ___ 
setting of cardiorenal syndrome given high urine Na and 
improvement with fluid restriction.
 
# Leukocytosis: No infectious symptoms. Urine culture negative.

# Anxiety: Hyperventilates when upset, responds well to calming. 
Continued on alprazolam.
  
Inactive Issues:
# Paranoid schizophrenia: Continued on olanzapine.  

# Right middle lobe atelectasis: Seen on CXR from ___, but now 
appears denser. Radiology recommends follow up CT to rule out 
post-obstuctive atelectasis.

Transitional Issues:
# Acute on chronic systolic CHF: patient started on metorpolol, 
spironolactone, isosorbide, torsemide and should be followed for 
response to therapy, side effects.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
hold for rr<10 or oversedation 
2. Atorvastatin 10 mg PO DAILY 
3. Furosemide 40 mg PO DAILY 
hold for sbp<100 
4. Lisinopril 5 mg PO DAILY 
hold for sbp<100 
5. Metoprolol Succinate XL 100 mg PO DAILY 
hold fro sbp<100 or hr<50 
6. OLANZapine 5 mg PO QAM 
7. OLANZapine 10 mg PO HS 
8. Omeprazole 20 mg PO BID 
9. Topiramate (Topamax) 25 mg PO BID 
10. Aspirin 81 mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Fish Oil (Omega 3) 1200 mg PO BID 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
hold for rr<10 or oversedation 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. OLANZapine 5 mg PO QAM 
5. OLANZapine 10 mg PO HS 
6. Omeprazole 20 mg PO BID 
7. Topiramate (Topamax) 25 mg PO BID 
8. Vitamin D 1000 UNIT PO DAILY 
9. Fish Oil (Omega 3) 1200 mg PO BID 
10. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3
11. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
12. Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*3
13. Spironolactone 12.5 mg PO DAILY 
RX *spironolactone 25 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Acute on chronic systolic congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
with shortness of breath due to worsening heart failure. We gave 
you medicine through your veins which helped to remove some of 
the fluid from your body. You also had your pacemaker wire 
repositioned which should help improve the function of your 
heart.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

START
spironolactone
torsemide
isosorbide mononitrate

CHANGE
metoprolol succinate 100mg to 12.5mg

STOP
furosemide (replaced with torsemide)
lisinopril (this will be temporarily held to prevent your blood 
pressure from dropping too low. You should talk to your 
cardiologist about resuming this when you have left the 
hospital)
 
Followup Instructions:
___